US09029536B2
E) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridine
A mixture of 2-(4-bromophenoxy)-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridine (212 mg), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (192 mg), Pd(dppf)2Cl2.CH2Cl (38 mg) and KOAc (148 mg) in THF (5 mL)-DMSO (0.25 mL) was stirred at 80° C. overnight under Ar atmosphere. The mixture was diluted with AcOEt and filtered through a silica gel pad conditioned with AcOEt. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (100 mg).

reactant | 2-(4-bromophenoxy)-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridine | 212 mg | BrC1=CC=C(OC2=NC=3C(=NC=CC3)N2COCC[Si](C)(C)C)C=C1 | C18H22BrN3O2Si
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 192 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 148 mg | CC(=O)[O-].[K+]
reactant | DMSO | 0.25 mL | CS(=O)C | C2H6OS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridine | 100 mg | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC=3C(=NC=CC3)N2COCC[Si](C)(C)C)C=C1)C | C24H34BN3O4Si
